datasets/10k__Tet_Int.csv
SMILES Labelled
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[S]C(C)C(CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S]C(C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CN([C:20](=[O:10])OCC)C.[O-:21][H]>>CN([C:20]([O-:10])(OCC)[O:21][H])C 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C(CC)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C(CC)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])C)C)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C)C 10=20;20,21=21"
"[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O]C(CC)C(C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(CC)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CCCCCC.[O-:21]CC>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)CCCCCC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)CC>>[H]C1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]C 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CC[O:10][C:20]([O-:21])(OC1=CC=CC=C1)OCCCCCC>>[O:21]=[C:20](OC1=CC=CC=C1)OCCCCCC.[O-:10]CC 21=20;20,10=10"
"C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OC)[H])C1=CC=CC=C1>>C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OC)[H])C1=CC=CC=C1 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C([H])[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(C8=CC=CC=C8)[S]2.C[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CC)C.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CC)C 21=20;20,10=10"
"[NH:10]([H])C(C)C(C)/C(C)=C(C)\[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)=C(C)C(C)C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C)[NH]C7=CC=CC=C7 21=20;20,10=10"
"C[O+:10]([K])[C:21]([O-:20])(OCC)OCCCCCC>>[O:20]=[C:21](OCC)OCCCCCC.C[O:10][K] 20=21;21,10=10"
"[H][O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(CC)C(C)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O]C(CC)C(C)[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[O-:10]C(C)C([H])/C(C)=C([H])\[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])=C(C)C([H])C(C)[O:10]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"CC[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O]CC 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)CCCCCC)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)CC>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[O-:21]CCCCCC 10=20;20,21=21"
"CC[S+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH]([H])[CH]([H])C(CC)[S]2.CC[S:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21]CC>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C1=CC=CC=C1)[H] 21=20;20,10=10"
